US06884868B1
To a solution of 4-(4-hydroxyphenyl)piperazine-1-carboxylic acid benzyl ester (22.38 g) and pyridine (8.7 ml) in dichloromethane (336 ml) was added dropwise trifluoromethanesulfonic anhydride (15.7 ml) at 0 to 10° C., and stirred for 2 hours. The reaction mixture was washed successively with 0.5N hydrochloric acid, saturated sodium hydrogen carbonate, water, brine, dried, and evaporated under reduced pressure. The residue was chromatographed on a column of silica gel eluting with dichloromethane/methyl alcohol (50:1) to give 4-(4-trifluoromethanesulfonyloxyphenyl)piperazine-1-carboxylic acid benzyl ester (21.06 g).

reactant | 4-(4-hydroxyphenyl)piperazine-1-carboxylic acid benzyl ester | 22.38 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)O | C18H20N2O3
reactant | pyridine | 8.7 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 15.7 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 336 ml | ClCCl | CH2Cl2
product | 4-(4-trifluoromethanesulfonyloxyphenyl)piperazine-1-carboxylic acid benzyl ester | 21.06 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C19H19F3N2O5S
